US09102692B2
(2-Methyl-1H-benzimidazol-5-yl)-hydrazine dihydrochloride (830 mg) was added to an ethanol solution (15 ml) of crude 2-(1-benzenesulfonyl-1H-indole-2-carbonyl)-3-dimethylamino acrylonitrile (1.17 g). The reaction mixture was heated with stirring under reflux for four hours. After cooling to room temperature, the mixture was allowed to stand at room temperature. The precipitated solid was collected by filtration, and washed with ethanol to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-1H-indol-2-yl)-methanone was obtained as a yellow solid (1.5 g, with a two-step yield of 91%).

reactant | (2-Methyl-1H-benzimidazol-5-yl)-hydrazine dihydrochloride | 830 mg | Cl.Cl.CC1=NC2=C(N1)C=CC(=C2)NN
reactant | 2-(1-benzenesulfonyl-1H-indole-2-carbonyl)-3-dimethylamino acrylonitrile | 1.17 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(=O)C(C#N)=CN(C)C | C20H17N3O3S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-1H-indol-2-yl)-methanone | yield of 91% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C26H20N6O3S
